US04636492
MeOSuc-Phe-Gly-Leu-OH was prepared from Z-Phe-Gly-Leu-OH, as described above in Procedure C. Z-Phe-Gly-Leu-OH (4.00 g, 8.52 mmol) was dissolved in 100 mL of methanol and hydrogenated in the presence of 1.0 eq of anhydrous HCl and 0.50 g of 10% Pd on carbon overnight in a Parr apparatus. The resulting reaction mixture was filtered and solvent was evaporated to yield 3.1 g of H-Phe-Gly-Leu-OH as a foam.

reactant | Z-Phe-Gly-Leu-OH | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C25H31N3O6
reactant | Z-Phe-Gly-Leu-OH | 8.52 mmol, 4.00 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C25H31N3O6
reactant | HCl | 1.0 eq | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd on carbon | 0.50 g | [Pd] | Pd
product | H-Phe-Gly-Leu-OH | 3.1 g | N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)O | C17H25N3O4
